US05424308
3-(5-Carboxy-1,4-dihydro-1-phenyl-indeno[1,2-c]pyrazol-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide (2.3 g) dissolved in dimethylformamide (25 ml) is reacted with ethyl iodide (1.55 g) in the presence of anhydrous potassium carbonate (1.4 g) under stirring at room temperature for 2 hours. The reaction mixture is diluted with ice water and the precipitate is filtered, dissolved in chloroform and washed with 1N HCl and then with water. Evaporation of the solvent in vacuo gives a residue which is crystallized from CH2Cl2 /methanol to yield 1.9 g of 2-cyano-3-(5-ethoxycarbonyl-1,4-dihydro -1-phenyl-indeno[1,2-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide, m.p. 233°-236° C. dec.

reactant | 3-(5-Carboxy-1,4-dihydro-1-phenyl-indeno[1,2-c]pyrazol-3-yl)-2-cyano-3-oxo-N-phenyl-propanamide | 2.3 g | C(=O)(O)C1=C2CC3=C(N(N=C3C(C(C(=O)NC3=CC=CC=C3)C#N)=O)C3=CC=CC=C3)C2=CC=C1 | C27H18N4O4
reactant | ethyl iodide | 1.55 g | C(C)I | C2H5I
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-cyano-3-(5-ethoxycarbonyl-1,4-dihydro -1-phenyl-indeno[1,2-c]pyrazol-3-yl)-3-oxo-N-phenyl-propanamide | 1.9 g | C(#N)C(C(=O)NC1=CC=CC=C1)C(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=CC=CC(=C1C2)C(=O)OCC | C29H22N4O4
